US07396844B1
Synthesis of t-butyl N-[(1R)-1-benzyl-2-chloroethyl]carbamate
6.01 g (36.4 mmol) of D-phenylalanine was dissolved in a solution comprising 5.35 g (53.0 mmol) of triethylamine, 50 ml of tetrahydrofuran and 50 ml of water. 7.52 g (34.5 mmol) of di-t-butyl dicarbonate was added to the solution, and they were stirred at room temperature overnight to conduct the N-t-butoxycarbonylation. After the treatment in an ordinary manner, the obtained solid was dissolved in 80 ml of THF, and reduced with 3.97 g (36.6 mmol) of ethyl chloroformate, 6.47 g (50.1 mmol) of diisopropylethylamine and 2.12 g (56.0 mmol) of sodium borohydride. The reaction product was then reacted with 4.17 g (36.4 mmol) of methanesulfonyl chloride and 6.47 g (50.1 mmol) of diisopropylethylamine in 80 ml of dimethylformamide as the solvent. After the treatment in an ordinary manner, the obtained residue was reacted with 8.42 g (199 mmol) of lithium chloride and 120 ml of dimethylformamide at 40° C. overnight also in an ordinary manner to obtain the title compound.

reactant | D-phenylalanine | 36.4 mmol, 6.01 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 53.0 mmol, 5.35 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 34.5 mmol, 7.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl chloroformate | 36.6 mmol, 3.97 g | ClC(=O)OCC | C3H5ClO2
reactant | diisopropylethylamine | 50.1 mmol, 6.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium borohydride | 56.0 mmol, 2.12 g | [BH4-].[Na+]
reactant | methanesulfonyl chloride | 36.4 mmol, 4.17 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 50.1 mmol, 6.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | lithium chloride | 199 mmol, 8.42 g | [Cl-].[Li+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | t-butyl N-[(1R)-1-benzyl-2-chloroethyl]carbamate | C(C1=CC=CC=C1)[C@H](CCl)NC(OC(C)(C)C)=O | C14H20ClNO2
